### PR TITLE
Add Erdős Problem 807 (bipartition number of random graphs), link the formal proof

### LINKED ISSUE #6402: Erdős Problem 807
### What is the Erdős problem?

https://www.erdosproblems.com/807

The bipartition number $\tau(G)$ of a graph $G$ is the smallest number of pairwise edge disjoint complete bipartite graphs whose union is $G$. Is it true that, if $G$ is a random graph on $n$ vertices with edge probability $1/2$, then $\tau(G)=n-\alpha(G)$ almost surely?

Status: disproved (Alon [Al15]; Alon–Bohman–Huang [ABH17]). A formal proof exists in plby/lean-proofs (`Erdos807.not_erdos_807`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6402.

### What changed
Adds `FormalConjectures/ErdosProblems/807.lean` with `Biclique`, the bipartition number `bipartitionNumber G` (least number of edge-disjoint bicliques covering `G`) and `AlmostSurely` for `G(n, 1/2)`:
- `erdos_807` (`research solved`, `answer(False)`): `τ(G) = n - α(G)` does not hold almost surely (Alon [Al15]).
- `variants.alon_bohman_huang`: `τ(G) ≤ n - (1+c) α(G)` almost surely for some absolute `c > 0`.

Both linked to plby/lean-proofs `Erdos807.not_erdos_807` / `alon_bohman_huang` (Codex and GPT-5.6 Sol; 21 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos807.not_erdos_807` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (plby uses lists of bicliques and `Set.ncard` for the probability; the bridge converts):

<details>
<summary>Bridge</summary>

```lean
open Filter Real SimpleGraph Finset

namespace Bridge807

variable {V : Type} [DecidableEq V] {G : SimpleGraph V}

/-- Conversions between the two (identical) biclique structures. -/
def toPlby (B : Erdos807.Biclique G) : Erdos807Plby.Biclique G :=
  ⟨B.left, B.right, B.disjoint, B.complete⟩

def ofPlby (B : Erdos807Plby.Biclique G) : Erdos807.Biclique G :=
  ⟨B.left, B.right, B.disjoint, B.complete⟩

lemma edgeSet_ofPlby (B : Erdos807Plby.Biclique G) :
    (ofPlby B).edgeSet = ↑B.edges := by
  ext e
  simp only [Erdos807.Biclique.edgeSet, Set.mem_ofPred_eq, Finset.mem_coe,
    Erdos807Plby.Biclique.mem_edges, ofPlby]
  constructor
  · rintro ⟨u, hu, v, hv, rfl⟩; exact ⟨u, hu, v, hv, rfl⟩
  · rintro ⟨u, hu, v, hv, rfl⟩; exact ⟨u, hu, v, hv, rfl⟩

lemma edgeSet_toPlby (B : Erdos807.Biclique G) :
    ↑(toPlby B).edges = B.edgeSet := by
  ext e
  simp only [Erdos807.Biclique.edgeSet, Set.mem_ofPred_eq, Finset.mem_coe,
    Erdos807Plby.Biclique.mem_edges, toPlby]
  constructor
  · rintro ⟨u, hu, v, hv, rfl⟩; exact ⟨u, hu, v, hv, rfl⟩
  · rintro ⟨u, hu, v, hv, rfl⟩; exact ⟨u, hu, v, hv, rfl⟩

lemma bipartitionNumber_eq [Fintype V] (G : SimpleGraph V) :
    Erdos807.bipartitionNumber G = Erdos807Plby.bipartitionNumber G := by
  unfold Erdos807.bipartitionNumber Erdos807Plby.bipartitionNumber
  congr 1
  ext k
  simp only [Set.mem_ofPred_eq, Erdos807Plby.IsBicliquePartition, Erdos807Plby.IsPartitionOn]
  constructor
  · rintro ⟨B, hpair, hcover⟩
    refine ⟨List.ofFn fun i => toPlby (B i), ⟨?_, ?_⟩, List.length_ofFn⟩
    · rw [List.pairwise_ofFn]
      intro i j hij
      have := hpair (ne_of_lt hij)
      rw [← Finset.disjoint_coe, edgeSet_toPlby, edgeSet_toPlby]
      exact this
    · ext e
      rw [Erdos807Plby.mem_coveredEdges, Erdos807Plby.mem_graphEdges]
      constructor
      · rintro ⟨B', hB', he⟩
        obtain ⟨i, rfl⟩ := List.mem_ofFn.1 hB'
        have : e ∈ ⋃ i, (B i).edgeSet := Set.mem_iUnion.2 ⟨i, by rw [← edgeSet_toPlby]; exact he⟩
        rwa [hcover] at this
      · intro he
        have : e ∈ ⋃ i, (B i).edgeSet := by rw [hcover]; exact he
        obtain ⟨i, hi⟩ := Set.mem_iUnion.1 this
        exact ⟨toPlby (B i), List.mem_ofFn.2 ⟨i, rfl⟩, by rw [← Finset.mem_coe, edgeSet_toPlby]; exact hi⟩
  · rintro ⟨p, ⟨hpair, hcover⟩, rfl⟩
    refine ⟨fun i => ofPlby (p.get i), ?_, ?_⟩
    · intro i j hij
      rw [edgeSet_ofPlby, edgeSet_ofPlby, Finset.disjoint_coe]
      rcases lt_or_gt_of_ne hij with h | h
      · exact List.pairwise_iff_get.1 hpair i j h
      · exact (List.pairwise_iff_get.1 hpair j i h).symm
    · ext e
      rw [Set.mem_iUnion]
      simp only [edgeSet_ofPlby, Finset.mem_coe]
      rw [← Erdos807Plby.mem_graphEdges, ← hcover, Erdos807Plby.mem_coveredEdges]
      constructor
      · rintro ⟨i, hi⟩
        exact ⟨p.get i, List.get_mem _ _, hi⟩
      · rintro ⟨B, hB, he⟩
        obtain ⟨i, rfl⟩ := List.mem_iff_get.1 hB
        exact ⟨i, he⟩

lemma almostSurely_iff (P : ∀ n : ℕ, SimpleGraph (Fin n) → Prop) :
    Erdos807.AlmostSurely P ↔ Erdos807Plby.RandomGraph.AlmostSurely P := by
  unfold Erdos807.AlmostSurely Erdos807Plby.RandomGraph.AlmostSurely
    Erdos807Plby.RandomGraph.probability Erdos807Plby.RandomGraph.eventCard
  refine Iff.of_eq (congrArg (fun f => Tendsto f atTop (nhds 1)) (funext fun n => ?_))
  classical
  rw [Set.ncard_eq_toFinset_card', Set.toFinset_ofPred, Nat.cast_pow, Nat.cast_ofNat]

theorem erdos_807_bridge : type_of% Erdos807.erdos_807 := by
  show False ↔ _
  simp only [false_iff]
  rw [almostSurely_iff]
  simp only [bipartitionNumber_eq]
  exact Erdos807Plby.not_erdos_807

theorem alon_bohman_huang : type_of% Erdos807.erdos_807.variants.alon_bohman_huang := by
  obtain ⟨c, hc, h⟩ := Erdos807Plby.alon_bohman_huang
  refine ⟨c, hc, ?_⟩
  rw [almostSurely_iff]
  simp only [bipartitionNumber_eq]
  exact h.mono (Eventually.of_forall fun n G hG => hG.2)

#print axioms Erdos807Plby.not_erdos_807
#print axioms erdos_807_bridge
#print axioms alon_bohman_huang

end Bridge807
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«807»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/807.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+@[expose] public section
+
+open Filter Real SimpleGraph
+
+namespace Erdos807
+
+variable {V : Type*}
+
+/-- A complete bipartite subgraph of `G`, given by its two disjoint parts. -/
+structure Biclique (G : SimpleGraph V) where
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/807.lean:42]: don't we already have this in FormalConjecturesForMathlib or in Mathlib?

File: FormalConjectures/ErdosProblems/807.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+disjoint complete bipartite subgraphs whose union is $G$. -/
+noncomputable def bipartitionNumber (G : SimpleGraph V) : ℕ :=
+  sInf {k | ∃ B : Fin k → Biclique G,
+    (Pairwise fun i j ↦ Disjoint (B i).edgeSet (B j).edgeSet) ∧ ⋃ i, (B i).edgeSet = G.edgeSet}
+
+open scoped Classical in
+/-- A sequence of properties of graphs holds *almost surely* for the random graph
+$G(n, 1/2)$ if the proportion of labelled graphs on `n` vertices satisfying it tends to `1`. -/
+def AlmostSurely (P : ∀ n : ℕ, SimpleGraph (Fin n) → Prop) : Prop :=
+  Tendsto (fun n ↦ ((Finset.univ.filter (P n)).card : ℝ) / 2 ^ n.choose 2) atTop (nhds 1)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/807.lean:64]: AlmostSurely (G(n,1/2)) duplicated by [#6422](https://github.com/google-deepmind/formal-conjectures/pull/6422)'s probability; suggest putting it RandomGraph.lean
